* source RTC_RECHARGE
R_R1         N13406 N13548  20.09k TC=0,0 
R_R2         N13416 N13406  100k TC=0,0 
V_V3         N13726 0 DC 0 AC 0
+PULSE 0 3.3 420m 10u 10u 300m 600m
C_C2         N13548 0  1000u IC=0 
V_V1         N13286 0 3.3Vdc
M_M1         N13620 N13416 N13454 N13454 MbreakP           
R_R5         N13454 N13548  100 TC=0,0 
M_M3         N13658 N13726 0 0 power_Mbreakn           
R_R3         N13286 N13416  100k TC=0,0 
R_R7         N13658 N13548  1k TC=0,0 
R_R4         N13354 N13286  28.25k TC=0,0 
X_U1         N13406 N13354 N13286 0 N13416 LMV331
V_V2         N13620 0 3.1Vdc
R_R6         0 N13354  100k TC=0,0 
